US09126931B2
2-(4-Ethylphenyl)-2-methylpropanoic acid
2-(4-Vinylphenyl)-2-methylpropanoic acid (58 g) was dissolved in ethanol, and then stirred for 3 hrs under atmospheric hydrogen pressure in the presence of 10% palladium carbon (5.8 g). The catalyst was removed by filtration, and the filtrate was concentrated to obtain a crude product, which was then suspended and washed with hexane to give the title compound (56.5 g, 94.8%).

reactant | 2-(4-Vinylphenyl)-2-methylpropanoic acid | 58 g | C(=C)C1=CC=C(C=C1)C(C(=O)O)(C)C | C12H14O2
solvent | ethanol | C(C)O | C2H6O
catalyst | palladium carbon | 5.8 g | [C].[Pd]
product | 2-(4-Ethylphenyl)-2-methylpropanoic acid | 56.5 g, 94.8% | C(C)C1=CC=C(C=C1)C(C(=O)O)(C)C | C12H16O2
